US07435837B2
Treatment of (±)-(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.00 g, 2.99 mmol) with sodium azide (0.78 g, 11.96 mmol) generally according to the procedure described for Intermediate 98 provided (±)-2-(azidomethyl)-7-methoxy-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.06 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 0.465 g (54%) (±)-1-(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp 168-171° C.; Anal. calcd. for C10H13NO2HCl: C, 55.69; H, 6.54; N, 6.49. Found: C, 55.68; H, 6.52; N, 6.5.

reactant | (±)-(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 2.99 mmol, 1.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2OC | C17H18O5S
reactant | sodium azide | 11.96 mmol, 0.78 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-methoxy-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2OC | C10H11N3O2
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.06 g | [Pd] | Pd
product | (±)-1-(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methanamine | 0.465 g, 54% | COC1=CC=CC=2CC(OC21)CN | C10H13NO2
